US06860928B2
A mixture of 1,3-bis(4-[N-(2,4-dichloro-1,3,5-triazin-6-yl)amino]phenoxy)-2,2-bis[(4-[N-(2,4-dichloro-1,3,5triazin-6-yl)amino]phenoxy)methyl]propane (3.88 grams, 3.55 mmol; prepared as described in Part D of this Example) and octylamine (11.7 milliliters, 71.0 mmol; obtained from Aldrich Chemical Co.) in dioxane (30 milliliters) was heated at reflux for 3 hours. The mixture was then cooled and added to 400 milliliters of a solution of 1 Normal NaOH and methanol (1:1 (v/v)). The resulting white solid was filtered off and dissolved in tetrahydrofuran. This solution was filtered over silica gel, and the volatiles were removed under reduced pressure. The residue was triturated in methanol and then dried under vacuum to afford pure 1,3-bis(4-[N-(2,4-bis(N-octylamino)-1,3,5-triazin-6-yl) amino]phenoxy)-2,2-bis[(4-[N-(2,4-bis(N-octylamino)-1,3,5-triazin-6-yl)amino]phenoxy)methyl]propane 14.50 grams, 2.45 mmol, 69 percent yield) as white powder: softening point 94-96° C.; IR (KBr) 3434, 3274, 2925, 2854, 1579, 1506, 1421, 1367, 1226, 1030, 810 cm−1; 1H NMR (400 MHz, DMSO-d6, 373° K) δ8.11 (s, 4H), 7.60 (d. 8H. 3J=8.9 Hz), 6.84 (d, 8H, 3J=8.9 Hz), 6.12 (s, 8H), 4.25 (s, 8H), 3.26 (td, 16H. 3Jt=6.6 Hz, 3Jd=6.6 Hz), 1.53 (m, 16H), 1.29 (m, 80H), 0.86 (t, 24H, 3J=7.1 Hz); 13C NMR (100 MHz, DMSO-d6, 373° K) δ165.54, 163.77, 153.31, 133.96, 120.76, 114.27, 67.15, 44.47, 39.61, 30.56, 28.87, 28.14, 27.96, 25.90, 21.29, 13.00; MS (FAB, 3-nitrobenzyl alcohol) m/e 1834.6; Anal. Calcd for C105H172N24O4: C, 68.74; H, 9.45; N, 18.32. Found: C, 68.31; H, 9.58: N, 18.34.

reactant | 1,3-bis(4-[N-(2,4-dichloro-1,3,5-triazin-6-yl)amino]phenoxy)-2,2-bis[(4-[N-(2,4-dichloro-1,3,5triazin-6-yl)amino]phenoxy)methyl]propane | ClC1=NC(=NC(=N1)Cl)NC1=CC=C(OCC(COC2=CC=C(C=C2)NC2=NC(=NC(=N2)Cl)Cl)(COC2=CC=C(C=C2)NC2=NC(=NC(=N2)Cl)Cl)COC2=CC=C(C=C2)NC2=NC(=NC(=N2)Cl)Cl)C=C1 | C41H28Cl8N16O4
reactant | octylamine | 71.0 mmol, 11.7 milliliters | C(CCCCCCC)N | C8H19N
reactant | NaOH | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | dioxane | 30 milliliters | O1CCOCC1 | C4H8O2
product | 1,3-bis(4-[N-(2,4-bis(N-octylamino)-1,3,5-triazin-6-yl) amino]phenoxy)-2,2-bis[(4-[N-(2,4-bis(N-octylamino)-1,3,5-triazin-6-yl)amino]phenoxy)methyl]propane | 2.45 mmol, 14.50 grams, 69 percent yield | C(CCCCCCC)NC1=NC(=NC(=N1)NCCCCCCCC)NC1=CC=C(OCC(COC2=CC=C(C=C2)NC2=NC(=NC(=N2)NCCCCCCCC)NCCCCCCCC)(COC2=CC=C(C=C2)NC2=NC(=NC(=N2)NCCCCCCCC)NCCCCCCCC)COC2=CC=C(C=C2)NC2=NC(=NC(=N2)NCCCCCCCC)NCCCCCCCC)C=C1 | C105H172N24O4
